US05665718
0.99 g (3 mmol) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one was stirred at room temperature overnight in 2 g (16 mmol) of dibutylamine and 15 ml of N,N-dimethylformamide. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with ethyl acetate there was obtained 0.82 g (65%) of 3-(5-dibutylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, which was converted into the hydrochloride of m.p. 105°-110°.

reactant | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 3 mmol, 0.99 g | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H12ClN5O2
reactant | dibutylamine | 16 mmol, 2 g | C(CCC)NCCCC | C8H19N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-(5-dibutylaminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.82 g, 65% | C(CCC)N(CCCC)CC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C23H30N6O2
